US05286905
10.0 Grams (52 mmol) of 1-(3,5-dimethylphenoxy)-2-propanone oxime was dissolved in 50 ml of ethanol in an autoclave, and 1.0 g of a Raney nickel catalyst (W-2) was added. The resultant mixture was stirred under a hydrogen pressure of 5 kg/cm2G at 50° to 60° C. for 1 hour. The catalyst was separated by filtration, and the filtrate was concentrated under reduced pressure. The residue was dissolved in 50 ml of ethyl ether, and the mixture was subjected to extraction with a 20% hydrochloric acid aqueous solution. The extracted water layer was made alkaline with a 20% sodium hydroxide aqueous solution, and subjected to extraction with 50 ml of ethyl ether. The extracted organic layer was distilled under reduced pressure to give 8.01 g (yield 86%) of 1-(3,5-dimethylphenoxy)2-aminopropane (boiling point 113° C./3 mmHg).

reactant | 1-(3,5-dimethylphenoxy)-2-propanone oxime | 52 mmol | CC=1C=C(OCC(C)=NO)C=C(C1)C | C11H15NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney nickel | 1.0 g | [Ni] | Ni
product | 1-(3,5-dimethylphenoxy)2-aminopropane | 8.01 g, yield 86% | CC=1C=C(OCC(C)N)C=C(C1)C | C11H17NO
